US05196489
Preparation of initiator 1,3-bis(trimethylsilyl)-1,3-dimethyl urea
1,3-dimethylurea (44.0 g, 0.5 mole) and triethylamine (250 mls) were charged to a stirred reaction vessel purged with dry nitrogen. The mixture was stirred for 5 minutes and then chlorotrimethylsilane (167.5 mls, 1.32 moles) was added resulting in the formation of a white precipitate. The resulting reaction mixture was stirred for a further 24 hours at ambient temperature after which it was filtered under a nitrogen atmosphere. The filter cake was washed with dry toluene and the combined organics filtrate was distilled at atmospheric pressure under a nitrogen atmosphere. The residual organics were subjected to fractional distillation at a pressure of 8 mmHg. The fraction distilling at 86° to 88° C. was the required initiator.

reactant | 1,3-dimethylurea | 0.5 mole, 44.0 g | CNC(=O)NC | C3H8N2O
reactant | chlorotrimethylsilane | 1.32 moles, 167.5 mls | Cl[Si](C)(C)C | C3H9ClSi
solvent | triethylamine | 250 mls | C(C)N(CC)CC | C6H15N
product | 1,3-bis(trimethylsilyl)-1,3-dimethyl urea | C[Si](N(C(=O)N(C)[Si](C)(C)C)C)(C)C | C9H24N2OSi2
